US05753682
4-(2-Methylimidazol-1-yl)benzyl alcohol (1.28 g, 6.8 mmol) in SOCl2 (5 ml) was stirred at ambient temperature for 30 minutes and then volatiles removed under reduced pressure. The resultant crude product was washed with minimal dry Et2O and dried in vacuo to afford 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride (1.65 g, quant.) as white solids.

reactant | 4-(2-Methylimidazol-1-yl)benzyl alcohol | 6.8 mmol, 1.28 g | CC=1N(C=CN1)C1=CC=C(CO)C=C1 | C11H12N2O
reactant | SOCl2 | 5 ml | O=S(Cl)Cl | Cl2OS
product | 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride | 1.65 g | Cl.CC=1N(C=CN1)C1=CC=C(CCl)C=C1 | InChI=1S/C11H11ClN2.ClH/c1-9-13-6-7-14(9)11-4-2-10(8-12)3-5-11;/h2-7H,8H2,1H3;1H
